### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Basis): commuting with basis elements places an element in the center

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Basis.lean [hunk 1]
```diff
@@ -1393,6 +1393,19 @@ def Submodule.inductionOnRankAux (b : Basis ι R M) (P : Submodule R M → Sort*
...
+lemma Basis.mem_center_iff {A}
+    [Semiring R] [NonUnitalNonAssocSemiring A]
+    [Module R A] [SMulCommClass R A A] [IsScalarTower R A A]
+    (b : Basis ι R A) {x : A} :
+    x ∈ Set.center A ↔ ∀ i, Commute (b i) x := by
+  constructor
+  · intro h i; apply h
+  · intro h y
+    rw [← b.total_repr y, Finsupp.total_apply, Finsupp.sum, Finset.sum_mul, Finset.mul_sum]
+    simp_rw [mul_smul_comm, smul_mul_assoc, (h _).eq]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Basis.lean:1407]: Way out of scope for this PR but: we should really have a nicer way to say that each element can be written as a sum of scaled basis vectors. Maybe a theorem along the lines of `Basis.induction` saying that `P` is always true on `A` whenever it is true on each `b i` and when it's closed under addition and scalar multiplication?

**Review by Vierkantor — APPROVED** [review]
LGTM, thanks!

bors r+
